US06660744B1
A mixture of 4-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-cyclohexanone (Intermediate AK) (1.32 g, 0.0037 mol), N-methylpiperazine (1.11 g, 0.011 mol) and acetic acid (0.66 g, 0.011 mol) in 1,2-dichloroethane (50 mL) was stirred for 10 min at 40° C. and sodium triacetoxyborohydride (1.09 g, 0.0052 mol) was added at once. The mixture was stirred at ambient temperature under an atmosphere of nitrogen for 24 hours and sodium triacetoxyborohydride (0.25 g, 0.0012 mol) was added. The mixture was stirred for another 48 hours , the solvent removed under reduced pressure and the residue partitioned between saturated aqueous sodium bicarbonate solution (80 mL) and chloroform (50 mL). The organic layer was separated and the aqueous layer further extracted with chloroform (3×50 mL). The combined organic extracts were dried over magnesium sulfate and the solvent removed under reduced pressure to yield a yellow oil. The compound was further purified by flash chromatography on silica gel using dichloromethane/triethylamine/methanol (88:11:1) as a mobile phase to yield cis-3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine as a white solid (0.93 g, 0.0021 mol): 1H NMR (DMSO-d6, 400 MHz) 8.18 (s, 1H), 4.71 (m, 1H), 2.38-1.9 (m, 13H), 2.17 (s, 3H), 1.63-1.5 (m, 4H); TLC (dichloromethane/triethylamine=9:1) Rf 0.24 and trans-3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine as a white solid (0.38 g, 0.00086 mol): 1H NMR (DMSO-d6, 400 MHz) 8.18 (s, 1H), 4.55 (m, 1H), 2.38-1.9 (m, 15H), 2.15 (s, 3H), 1.42 (m, 2H); TLC (dichloromethane/triethylamine=9:1) Rf 0.11.

reactant | 4-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-cyclohexanone | 0.0037 mol, 1.32 g | NC1=C2C(=NC=N1)N(N=C2I)C2CCC(CC2)=O | C11H12IN5O
reactant | N-methylpiperazine | 0.011 mol, 1.11 g | CN1CCNCC1 | C5H12N2
reactant | acetic acid | 0.011 mol, 0.66 g | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.0052 mol, 1.09 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 0.0012 mol, 0.25 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
product | cis-3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.0021 mol, 0.93 g | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C16H24IN7
